US08258136B2
A mixture of 0.67 g of 4-(4-chlorophenyl)-5-hydroxy-5-methyl-3-(2-pyridyl)-2(5H)-fu ranone, 0.25 g of hydrazine monohydrate and 8 ml of 1-butanol was stirred for 5 hours on an oil bath of 110° C. The reaction mixture was cooled to 0° C. The deposited solid was collected by filtration. The resultant solid was washed with a mixed solvent of hexane and t-butyl methyl ether, and dried under reduced pressure, to obtain 0.32 g of 5-(4-chlorophenyl)-6-methyl-4-(2-pyridyl)-2H-pyridazin-3-one.

reactant | 4-(4-chlorophenyl)-5-hydroxy-5-methyl-3-(2-pyridyl)-2(5H)-fu ranone | 0.67 g | ClC1=CC=C(C=C1)C1=C(C(OC1(C)O)=O)C1=NC=CC=C1 | C16H12ClNO3
reactant | hydrazine monohydrate | 0.25 g | O.NN
solvent | 1-butanol | 8 ml | C(CCC)O | C4H10O
product | 5-(4-chlorophenyl)-6-methyl-4-(2-pyridyl)-2H-pyridazin-3-one | 0.32 g | ClC1=CC=C(C=C1)C1=C(C(NN=C1C)=O)C1=NC=CC=C1 | C16H12ClN3O
